US05885999
a) N-[2-(4-t-Butoxycarbonylpiperazin-1-yl)phenylmethyl]acetamide
Acetic anhydride (0.40 mL, 0.43 g, 4.2 mmol) was added to a stirred, cooled (0° C.) solution of 2-(4-t-butoxycarbonylpiperazin-1-yl)phenylmethylamine (1.02 g, 3.5 mmol), 4-dimethylaminopyridine (86 mg, 0.7 mmol) and pyridine (0.57 mL, 0.55 g, 7 mmol) in dichloromethane (10 mL) and the mixture was stirred at room temperature for 1 h. Methanol (1 mL) was added and the mixture was stirred at room temperature for 2 h. Aqueous sodium hydrogen carbonate (saturated, 20 mL) and water (10 mL) were added and the mixture was extracted with dichloromethane (3×20 mL). The combined organic fractions were dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by MPLC on silica gel, eluting with CH2Cl2 /MeOH/NH3 (Aq.) (99.5:0.5:0.05 increasing to 98:2:0.2) to give the title compound as a colorless solid (681 mg, 58%), δH (250 MHz, CDCl3) 7.28 (2H, m), 7.12 (2H, m), 6.26 (1H, br s), 4.55 (2H, d, J 5.6 Hz), 3.57 (4H, t, J 4.9 Hz), 2.86 (4H, t, J 4.9 Hz), 2.03 (3H, s), and 1.49 (9H, s). m/e (ES+) 334 (MH+).

reactant | Acetic anhydride | 4.2 mmol, 0.40 mL, 0.43 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | 2-(4-t-butoxycarbonylpiperazin-1-yl)phenylmethylamine | 3.5 mmol, 1.02 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)CN | C16H25N3O2
reactant | pyridine | 7 mmol, 0.57 mL, 0.55 g | N1=CC=CC=C1 | C5H5N
reactant | sodium hydrogen carbonate | 20 mL | C(O)([O-])=O.[Na+]
catalyst | 4-dimethylaminopyridine | 0.7 mmol, 86 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
solvent | Methanol | 1 mL | CO | CH4O
product | N-[2-(4-t-Butoxycarbonylpiperazin-1-yl)phenylmethyl]acetamide | 681 mg, 58% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)CNC(C)=O | C18H27N3O3
